US07645771B2
To a solution of methyl 2-chloro-3-(chlorosulfonyl)benzoate (608 mg, 2.26 mmol) and K2CO3 (770 mg, 5.6 mmol) in 10 mL benzene was added a 2M solution of methylamine in THF (5.6 mL, 11.2 mmol). Purification of the product (2:1 hex:EtOAc) provided methyl 2-chloro-3-[(methylamino)sulfonyl]benzoate (430 mg, 72%) as a solid. 1H NMR (400 MHz, CDCl3), δ 8.23 (dd, 1H, J=7.9, 1.7 Hz), 7.90 (dd, 1H, J=7.8, 1.7 Hz), 7.48 (t, 1H, J=7.9 Hz), 5.16 (q, 1H, J=5.2 Hz), 3.94 (s, 3H), 2.62 (d, 3H, J=5.3 Hz); ESI-MS 264 (M+H). Methyl 2-chloro-3-[(methylamino)sulfonyl]benzoate was hydrolyzed using aqueous NaOH to provide 2-chloro-3-[(methylamino)sulfonyl]benzoic acid as a solid, which was used without further purification. ESI-MS 250 (M+H), 272 (M+Na).

reactant | methyl 2-chloro-3-(chlorosulfonyl)benzoate | 2.26 mmol, 608 mg | ClC1=C(C(=O)OC)C=CC=C1S(=O)(=O)Cl | C8H6Cl2O4S
reactant | K2CO3 | 5.6 mmol, 770 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | methylamine | CN | CH5N
reactant | THF | 11.2 mmol, 5.6 mL | C1CCOC1 | C4H8O
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | methyl 2-chloro-3-[(methylamino)sulfonyl]benzoate | 430 mg, 72% | ClC1=C(C(=O)OC)C=CC=C1S(=O)(=O)NC | C9H10ClNO4S
